US05969139
Reaction of 3-amino-5,5-dimethyl-2-cyclohexen-1-one with 4-chloro-3-(1H-pyrrol-1-yl)benzaldehyde in an analogous manner to that described in Example 1 gave 9-[4-chloro-3-(1H-pyrrol-1-yl)phenyl]-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione. This product was recrystallized from dimethylformamide/water and gave a yellow crystalline solid of melting point 282-283° C. (decomposition).

reactant | 3-amino-5,5-dimethyl-2-cyclohexen-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 4-chloro-3-(1H-pyrrol-1-yl)benzaldehyde | ClC1=C(C=C(C=O)C=C1)N1C=CC=C1 | C11H8ClNO
product | 9-[4-chloro-3-(1H-pyrrol-1-yl)phenyl]-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione | ClC1=C(C=C(C=C1)C1C=2C(CC(CC2NC=2CC(CC(C12)=O)(C)C)(C)C)=O)N1C=CC=C1 | C27H29ClN2O2
